US07915443B2
Methyl 3-{N-[(5-bromopyridin-3-yl)carbonyl]-S-methylsulfonimidoyl}benzoate
In a manner similar to that described in Example 480 (step 6), 5-bromonicotinic acid and methyl 3-(S-methylsulfonimidoyl)benzoate were reacted to give the title compound.

reactant | 5-bromonicotinic acid | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | methyl 3-(S-methylsulfonimidoyl)benzoate | CS(=O)(=N)C=1C=C(C(=O)OC)C=CC1 | C9H11NO3S
product | Methyl 3-{N-[(5-bromopyridin-3-yl)carbonyl]-S-methylsulfonimidoyl}benzoate | BrC=1C=C(C=NC1)C(=O)N=S(=O)(C)C=1C=C(C(=O)OC)C=CC1 | C15H13BrN2O4S
